US08981111B2
To a solution of thiophene-2-carbonyl chloride (100.6 mL, 940 mmol) and N,O-dimethylhydroxylamine hydrochloride (100.9 g, 1.03 mol) in dichloromethane (1 L) at 0° C. was added dropwise triethylamine (262 mL, 1.88 mol). After stirring at room temperature for 3 h, the reaction mixture was poured into a mixture of water (2 L) and concentrated aq. HCl (36%, 80 mL), the layers were separated and the aqueous layer extracted with dichloromethane (2×200 mL). The combined organic layers were washed with water (200 mL), then dried over MgSO4 and concentrated in vacuo to afford N-methoxy-N-methylthiophene-2-carboxamide [153.4 g, yield 95%; HPLC/MS: m/z=172 (M+H); log P(HCOOH)=1.44].

reactant | thiophene-2-carbonyl chloride | 940 mmol, 100.6 mL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.03 mol, 100.9 g | Cl.CNOC
reactant | triethylamine | 1.88 mol, 262 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 80 mL | Cl | ClH
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
solvent | water | 2 L | O | H2O
product | N-methoxy-N-methylthiophene-2-carboxamide | 153.4 g, yield 95% | CON(C(=O)C=1SC=CC1)C | C7H9NO2S
